US07452892B2
Preparation of (R)-7,8-bis(4-chlorophenyl)-2-methyl-5-(pyrrolidin-3-ylmethylamino)-[1,2,4]triazolo[4,3-c]pyrimidin-3(2H)-one
A solution of (S)-tert-butyl 3-((7,8-bis(4-chlorophenyl)-2-methyl-3-oxo-2,3-dihydro-[1,2,4]triazolo[4,3-c]pyrimidin-5-ylamino)methyl)pyrrolidine-1-carboxylate (85 mg, 0.15 mmol) in a mixture of TFA (0.1 mL) and CH2Cl2 (0.5 mL) was stirred at room temperature until HPLC/MS indicated complete conversion to the title compound. The reaction mixture was then partitioned between EtOAc and saturated aqueous sodium bicarbonate solution. The organic phase was separated, dried, and evaporated. The residue was purified by preparative reverse phase HPLC (without TFA) to obtain the title compound as a pale yellow solid. HPLC/MS: retention time 3.475 min, [M+H]30 =469.

reactant | (S)-tert-butyl 3-((7,8-bis(4-chlorophenyl)-2-methyl-3-oxo-2,3-dihydro-[1,2,4]triazolo[4,3-c]pyrimidin-5-ylamino)methyl)pyrrolidine-1-carboxylate | 0.15 mmol, 85 mg | ClC1=CC=C(C=C1)C1=C(C=2N(C(=N1)NC[C@H]1CN(CC1)C(=O)OC(C)(C)C)C(N(N2)C)=O)C2=CC=C(C=C2)Cl | C28H30Cl2N6O3
solvent | TFA | 0.1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 0.5 mL | C(Cl)Cl | CH2Cl2
product | (R)-7,8-bis(4-chlorophenyl)-2-methyl-5-(pyrrolidin-3-ylmethylamino)-[1,2,4]triazolo[4,3-c]pyrimidin-3(2H)-one | ClC1=CC=C(C=C1)C1=C(C=2N(C(=N1)NC[C@H]1CNCC1)C(N(N2)C)=O)C2=CC=C(C=C2)Cl | C23H22Cl2N6O
